US05254718
2-Chloroethyl 2-hydroxy-2-methylbutyrate was prepared from 2-hydroxy-2-methylbutyric acid and excess 2-chloroethanol essentially by the method described in Step 1 of Example 1: b.p. 108° C./20 mm Hg; 1H NMR δ 0.90 (t, 3H, J=7.4 Hz), δ 1.44 (s, 3H), δ ca. 1.70 (m, 1H), δ ca. 1.83 (m, 1H), δ 3.10 (s, 1H), δ 3.72 (t, 2H, J=5.6 Hz), δ 4.43 (dd, 2H, J=5.6 Hz and 1.5 Hz); HRMS calcd for C6H9ClO3Tms (M--CH3) 237.0714, obsd 237.0750.

reactant | 2-hydroxy-2-methylbutyric acid | OC(C(=O)O)(CC)C | C5H10O3
reactant | 2-chloroethanol | ClCCO | C2H5ClO
product | 2-Chloroethyl 2-hydroxy-2-methylbutyrate | OC(C(=O)OCCCl)(CC)C | C7H13ClO3
